US08461179B1
A solution of 3-(5-amino-2-chloro-4-fluorophenyl)-1-ethyl-7-(1-methylpiperidin-4-ylamino)-1,6-naphthyridin-2(1H)-one (200 mg, 0.465 mmol) and pyridine (70 mg, 0.95 mmol) in DCM (5 mL) was treated drop-wise with phenyl isocyanate (112 mg, 0.93 mmol) and stirred at RT under nitrogen overnight. The mixture was quenched with MeOH (5 mL), concentrated under reduced pressure and purified by prep-TLC separation to give 1-(4-chloro-5-(1-ethyl-7-(1-methylpiperidin-4-ylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-phenylurea (120 mg, 47% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.16 (s, 1H), 8.72 (s, 1H), 8.39 (s, 1H), 8.17 (d, J=8.8 Hz, 1H), 7.71 (s, 1H), 7.51 (d, J=10.8 Hz, 1H), 7.42 (s, 1H), 7.40 (s, 1H), 7.26 (t, J=8.0 Hz, 2H), 7.02-6.94 (m, 2H), 6.33 (s, 1H), 4.11-4.05 (m, 2H), 3.81-3.78 (m, 1H), 2.78-2.75 (m, 2H), 2.20 (s, 3H), 2.12-2.05 (m, 2H), 1.90-1.88 (m, 2H), 1.52-1.47 (m, 2H), 1.21-1.18 (m, 3H); MS (ESI) m/z: 549.3 [M+H]+.

reactant | 3-(5-amino-2-chloro-4-fluorophenyl)-1-ethyl-7-(1-methylpiperidin-4-ylamino)-1,6-naphthyridin-2(1H)-one | 0.465 mmol, 200 mg | NC=1C(=CC(=C(C1)C=1C(N(C2=CC(=NC=C2C1)NC1CCN(CC1)C)CC)=O)Cl)F | C22H25ClFN5O
reactant | pyridine | 0.95 mmol, 70 mg | N1=CC=CC=C1 | C5H5N
reactant | phenyl isocyanate | 0.93 mmol, 112 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-chloro-5-(1-ethyl-7-(1-methylpiperidin-4-ylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2-fluorophenyl)-3-phenylurea | 120 mg, 47% yield | ClC1=CC(=C(C=C1C=1C(N(C2=CC(=NC=C2C1)NC1CCN(CC1)C)CC)=O)NC(=O)NC1=CC=CC=C1)F | C29H30ClFN6O2
